US06391940B1
7.98 grams dipentaerythritol pentacrylate phosphoric acid ester (PETA);
8.78 grams 2,7,7,9,15-pentamethyl-4, 13-dioxo-3, 14-dioxa 5,12-diaza-hexadecane-1, 16diyldimetylate (UDMA); 3.33 grams 7, 7, 9 63, 63, 65-hexamethyl-4, 13, 60, 69-tetra-xo-3, 14, 19, 24, 29, 34, 39, 44, 49, 54, 59, 70-dodecanoxa-5, 12, 61, 68-tetra-aza-doheptacontane-1, 72-diyl-dimethacrylate resin; 5.04 grams a mixture of 1,1′, 2,2′ and 1,2′-bis-methacryloyloxy-ethyl-4,4′-oxydiphthalate (OEMA); 0.20 grams camphorquinone (CQ); 0.60 grams ethyl-4,N,N-dimethylaminobenzoate (EDAB); 0.10 grams butylated hydroxytoluene (BHT); 14.83 grams ethanol and 59.14 grams acetone are mixed at 23° C. for 30 minutes to form a Self-Priming Metal Adhesive.

reactant | UDMA | CC(CCNC(=O)OCCOC(=O)C(=C)C)CC(C)(C)CNC(=O)OCCOC(=O)C(=C)C | C23H38N2O8
reactant | 1,2′-bis-methacryloyloxy-ethyl-4,4′-oxydiphthalate | C(C(=C)C)(=O)OC(C)C=1C(C(C(=O)[O-])C=CC1OC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-])(C(=O)[O-])OC(C(=C)C)=O
reactant | camphorquinone | 0.20 grams | C12(C(=O)C(=O)C(CC1)C2(C)C)C | C10H14O2
reactant | ethanol | 14.83 grams | C(C)O | C2H6O
reactant | acetone | 59.14 grams | CC(=O)C | C3H6O
product | dipentaerythritol | OCC(CO)(COCC(CO)(CO)CO)CO | C10H22O7
